US07700625B2
4-[2-(2-Methoxy-ethoxy)-ethoxy]-2,3-dihydro-1H-isoindole
A solution of 2-(4-methoxy-benzyl)-4-[2-(2-methoxy-ethoxy)-ethoxy]-2,3-dihydro-1H-isoindole (45 mg, 0.13 mmol) in 1,2-dichloroethane (2 mL) was treated with α-chloroethyl chloroformate (0.1 mL, 0.93 mmol). After 17 hours, methanol (5 mL) was added and the mixture stirred for 3 hours. The solvents were removed in vacuo to afford the title compound as a greenish-black solid, which was used without further purification. 1H NMR (methanol-d4) 7.36 (1H, t), 6.98 (2H, d), 4.60 (2H, s), 4.57 (2H, s), 4.23-4.21 (2H, m), 3.85-3.83 (2H, m), 3.69-3.67 (2H, m), 3.57-3.54 (2H, m), 3.36 (3H, s). MS: [M+H]+ 238.

reactant | 2-(4-methoxy-benzyl)-4-[2-(2-methoxy-ethoxy)-ethoxy]-2,3-dihydro-1H-isoindole | 0.13 mmol, 45 mg | COC1=CC=C(CN2CC3=CC=CC(=C3C2)OCCOCCOC)C=C1 | C21H27NO4
reactant | α-chloroethyl chloroformate | 0.93 mmol, 0.1 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | methanol | 5 mL | CO | CH4O
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
product | 4-[2-(2-Methoxy-ethoxy)-ethoxy]-2,3-dihydro-1H-isoindole | COCCOCCOC1=C2CNCC2=CC=C1 | C13H19NO3
